US08114893B2
Step 1: Preparation of 2-(4-(dimethylamino)benzylamino)ethanol (51A)
A solution of 2-(dimethylamino)benzaldehyde (0.50 g, 3.35 mmol) and ethanolamine (0.409 g, 6.7 mmol) in anhydrous EtOH (13 mL) was stirred at rt for 17 hours before sodium triacetoxyborohydride (1.42 g, 6.7 mmol) was added. The reaction mixture was stirred for 4.5 hours, added water, and the pH was adjusted to 12 with 5 M NaOH. The mixture was extracted with EtOAc, and the organic phases were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography on silica gel eluting with a gradient of DCM:MeOH 9:1 to 1:1, to provide the desired product 2-(4-(dimethylamino)benzylamino)ethanol (51A).

reactant | 2-(dimethylamino)benzaldehyde | 3.35 mmol, 0.50 g | CN(C1=C(C=O)C=CC=C1)C | C9H11NO
reactant | ethanolamine | 6.7 mmol, 0.409 g | C(O)CN | C2H7NO
reactant | sodium triacetoxyborohydride | 6.7 mmol, 1.42 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 5 M | [OH-].[Na+]
solvent | EtOH | 13 mL | CCO | C2H6O
solvent | water | O | H2O
product | 2-(4-(dimethylamino)benzylamino)ethanol | CN(C1=CC=C(CNCCO)C=C1)C | C11H18N2O
